Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Dilaudid / Oxycodone / Percocet / Vicodin
 
Attending: ___.
 
Chief Complaint:
right hip pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ year old male who complains of right Hip pain, s/p Fall. pt 
was coming out of clinic and had slip and fall witnessed by 
wife. pt has mild cognitive impairment butwife relates pt has 
had some rt hip pain prior to fall. she
denies head strike. pt denies any other complaint but hip
pain.

 
Past Medical History:
High Cholesterol, HTN, afib, CAD, Carotid disease, pulmonary 
nodules, bronchiectasis, poor balance, spinal stenosis, mild 
cognitive impairment, colonic adenoma, BPH, CA Colon, Gout 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam: upon admission ___  

Vitals: 98.5, 70, 160/88, 16, 94% RA
GEN: awake, alert, mild dementia, oriented to place, self and
date, NAD
HEAD: NC/AT, nares clear, no gross deficits or tendereness 
HEENT: No scleral icterus, mucus membranes moist
CV: regular rate, regular rhythm, no afib at time of the exam 
PULM: Clear to auscultation b/l, no chest pain to palpation, no
crepitus
ABD: Soft, nondistended, nontender, no rebound or guarding,
Buttock: soft, full buttocks on right side, decreased motor
function RLE
Ext: No ___ edema, ___ warm and well perfused

Dishcharge physical examination:  ___

vital signs:  98.2, hr=62 bp=151/81, rr=18  95% room air

GENERAL:  NAD skin warm/dry

CV: ns1, s2
LUNGS:  clear
ABDOMEN: hypoactive BS, soft, non-tender
EXT:  no pedal edema bil., no calf tenderness bil
SKIN:  ecchymosis right hip, soft, extending from right iliac 
crest to spine, no swelling
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 06:00AM BLOOD WBC-10.3* RBC-3.32* Hgb-10.5* Hct-31.5* 
MCV-95 MCH-31.6 MCHC-33.3 RDW-16.0* RDWSD-55.7* Plt ___
___ 06:15AM BLOOD WBC-13.3* RBC-3.52* Hgb-10.9* Hct-33.1* 
MCV-94 MCH-31.0 MCHC-32.9 RDW-16.1* RDWSD-54.4* Plt ___
___ 08:48PM BLOOD WBC-13.2* RBC-4.45* Hgb-13.6* Hct-41.9 
MCV-94 MCH-30.6 MCHC-32.5 RDW-16.1* RDWSD-55.4* Plt ___
___ 06:00AM BLOOD ___ PTT-33.5 ___
___ 01:20PM BLOOD ___ PTT-36.3 ___
___ 08:48PM BLOOD ___ PTT-41.5* ___
___ 06:00AM BLOOD Glucose-107* UreaN-20 Creat-1.0 Na-142 
K-3.9 Cl-104 HCO3-30 AnGap-8*
___ 06:15AM BLOOD Glucose-118* UreaN-20 Creat-0.9 Na-144 
K-3.9 Cl-104 HCO3-26 AnGap-14
___ 06:00AM BLOOD Calcium-8.6 Phos-2.6* Mg-2.1

___:  hip x-ray

No fracture or dislocation.

___:  CT pelvis:

 
1. No acute fracture or dislocation. 
2. Asymmetric expansion and hyper-dense appearance of the right 
gluteus medius muscle likely due to intramuscular hematoma.  
Correlation with serial hematocrit levels exam as active 
bleeding not excluded. 

___:  CTA pelvis;

  
Stable appearance of soft tissue and intra-gluteal hematoma 
compared to 
___, with no evidence of active extravasation.  
Opacification of a 
single small arterial branch within the hematoma is unlikely to 
represent a source of active extravasation and likely represents 
a small intramuscular arterial branch. 

 
Brief Hospital Course:
___ year old male admitted to the hospital after a fall while 
getting out of his recliner.  He landed on his right hip.  Upon 
admission, the patient was made NPO, given intravenous fluids, 
and underwent imaging.  An x-ray of his hip showed no fracture 
on dislocation, but a right gluteus medius hematoma was seen.  
He underwent serial hematocrits and assessment of his hematoma.  
   

The ___ hospital course remained stable.  He resumed a 
regular diet and was voiding without difficulty.  He had return 
of bowel function.  He resumed his Coumadin on ___, after his 
INR trended to 2.3.  In preparation for discharge, he was 
evaluated by Physical therapy and recommendations were made for 
discharge to a rehabilitation center to help him regain his 
strength and mobility.  His hematocrit at the time of discharge 
was 31.5.  He received 2.0 mg of Coumadin prior to discharge.  
The patient was instructed to follow-up with his primary care 
provider after discharge from the rehabilitation facility.  
Discharge instructions were reviewed and questions answered.     
  
 
Medications on Admission:
: fluticasone-salmeterol, triamcinolone acetonide , allopurinol 
___, atenolol 50',, tamsulosin 0.4', Lasix 20', warfarin 2.5', 
finasteride 5' 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may change to q 8 hours as needed if pain is controlled  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
4.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
5.  Atenolol 50 mg PO DAILY hold SBP < 110, HR < 60  
6.  Furosemide 20 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  ___  MD to order daily dose PO DAILY16 
MD to order daily dosing based on ___  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right gluteal medius hematoma related to a fall

elevated INR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital after you a fall resulting in 
bleeding in the skin tissue. Because you were taking Coumadin, 
your risk of bleeding is high.  Your blood count was monitored 
and it has stabilized.  You were evaluated by Physical therapy 
and recommendations made for discharge to a rehabilitation 
facility with the following instructions: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*increased pain, swelling right flank

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___